US06262045B1
5.9. 1-[2-(9-Bromo-5-methyl-4-oxo-3-phenyl-3,5-dihydro-4H-pyridazino[4,5-b]indol-1-yl)-1-oxoethyl]pyrrolidine
The preparation is carried out as in Example 3.2, from 3.1 g (7.5 mmol) of 9-bromo-5-methyl-4-oxo-3-phenyl-3,5-dihydro-4H-pyridazino[4,5-b]indole-1-acetic acid, from 1.4 g of 1,1′-carbonylbis-1H-imidazole and from 0.7 ml of pyrrolidine. After reaction, water is added and the precipitate is collected by filtration and dried under reduced pressure. It is recrystallized from propan-2-ol and washed with ether and pentane. It is dried under reduced pressure. 2.3 g (4.9 mmol) of solid are obtained.

reactant | 9-bromo-5-methyl-4-oxo-3-phenyl-3,5-dihydro-4H-pyridazino[4,5-b]indole-1-acetic acid | 7.5 mmol, 3.1 g | BrC=1C=2C3=C(N(C2C=CC1)C)C(N(N=C3CC(=O)O)C3=CC=CC=C3)=O | C19H14BrN3O3
reactant | 1,1′-carbonylbis-1H-imidazole | 1.4 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | pyrrolidine | 0.7 ml | N1CCCC1 | C4H9N
solvent | water | O | H2O
product | 1-[2-(9-Bromo-5-methyl-4-oxo-3-phenyl-3,5-dihydro-4H-pyridazino[4,5-b]indol-1-yl)-1-oxoethyl]pyrrolidine | 4.9 mmol, 2.3 g | BrC=1C=2C3=C(N(C2C=CC1)C)C(N(N=C3CC(=O)N3CCCC3)C3=CC=CC=C3)=O | C23H21BrN4O2
